US08748599B2
Triphenylacetyl chloride [3; R1=R2=R3=Ph]
A stirred mixture of triphenylacetic acid (21.7 g; 0.075 mol) and dry dimethylformamide (2 drops) in dry dichloromethane (100 cm3) was treated with oxalyl chloride (14 g; 0.11 mol) which was added in 4 approximately equal portions over ˜25 minutes. The mixture was stirred at 35° until evolution of hydrogen chloride had ceased (˜4 hrs). The resulting colourless solution was evaporated in vacuo at 40° to constant weight to give the title compound as a colourless crystalline solid. Yield=23.24 g (100.0%). The product was used directly in next stage.

reactant | triphenylacetic acid | 0.075 mol, 21.7 g | C1(=CC=CC=C1)C(C(=O)O)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H16O2
reactant | oxalyl chloride | 0.11 mol, 14 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | hydrogen chloride | Cl | ClH
catalyst | dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 cm3 | ClCCl | CH2Cl2
product | Triphenylacetyl chloride | C1(=CC=CC=C1)C(C(=O)Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H15ClO
